US09227978B2
Methyl 2-((4-chloro-5-cyclopropyl-2-methoxyphenyl)thio)acetate
A mixture of 1-chloro-2-cyclopropyl-4-iodo-5-methoxybenzene (380 mg, 1.23 mmol), Pd2(dba)3 (56 mg, 0.061 mmol), methyl 2-mercaptoacetate (196 mg, 1.85 mmol), 1,1′-Bis(diphenylphosphino)ferrocene (136 mg, 0.246 mmol), Et3N (372 mg, 3.69 mmol) in NMP (8 mL) was stirred under argon at 80° C. for 24 h. After cooled to RT, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=20:1) to afford the desired product (340 mg, 92% yield). 1H NMR (400 MHz, DMSO-d6) δ: 7.05 (s, 1H), 6.81 (s, 1H), 3.84 (s, 2H), 3.82 (s, 3H), 3.62 (s, 3H), 2.00 (m, 1H), 0.94 (m, 2H), 0.64 (m, 2H).

reactant | 1-chloro-2-cyclopropyl-4-iodo-5-methoxybenzene | 1.23 mmol, 380 mg | ClC1=C(C=C(C(=C1)OC)I)C1CC1 | C10H10ClIO
reactant | methyl 2-mercaptoacetate | 1.85 mmol, 196 mg | SCC(=O)OC | C3H6O2S
reactant | Et3N | 3.69 mmol, 372 mg | CCN(CC)CC | C6H15N
solvent | NMP | 8 mL | CN1CCCC1=O | C5H9NO
catalyst | Pd2(dba)3 | 0.061 mmol, 56 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene | 0.246 mmol, 136 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Methyl 2-((4-chloro-5-cyclopropyl-2-methoxyphenyl)thio)acetate | 340 mg, 92% yield | ClC1=CC(=C(C=C1C1CC1)SCC(=O)OC)OC | C13H15ClO3S
